US09233974B2
To a solution of (2S,5S)-1-tert-butyl 2-ethyl 5-methylpyrrolidine-1,2-dicarboxylate (6.46 g, 25.1 mmol) in ethanol (20 mL) was added lithium hydroxide mono hydrate (2.11 g, 50.2 mmol) and deionized water (12 mL). The mixture was allowed to stir for 16 hours then partitioned between ethylacetate and a 1:1 mixture of saturated brine and 1N HCl. The aqueous layer was extracted an additional time with ethyl acetate. The organic layers were combined, dried with sodium sulfate and the solvent was removed in vacuo to yield (2S,5S)-1-(tert-butoxycarbonyl)-5-methylpyrrolidine-2-carboxylic acid as a white solid (quant.) and was used directly in the following step.

reactant | (2S,5S)-1-tert-butyl 2-ethyl 5-methylpyrrolidine-1,2-dicarboxylate | 25.1 mmol, 6.46 g | C[C@H]1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OCC | C13H23NO4
reactant | lithium hydroxide mono hydrate | 50.2 mmol, 2.11 g | O.[OH-].[Li+]
reactant | water | 12 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (2S,5S)-1-(tert-butoxycarbonyl)-5-methylpyrrolidine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC[C@@H]1C)C(=O)O | C11H19NO4
